US08685969B2
5. Methyl-1-chloro-4-cyano-5H-pyrido[4,3-b]indole-7-carboxylate
A stirred slurry of methyl 4-cyano-1-oxo-2,5-dihydro-1H-pyrido[4,3-b]indole-7-carboxylate (1.000 g, 3.74 mmol) in Dioxane (Volume: 25 mL) was heated to 93° C. Phosphorus oxychloride (1.713 mL, 18.71 mmol) was added slowly dropwise over 30 minutes. After complete addition the reaction mixture was stirred at 93° C. for 5 hours then at room temperature overnight. LC-MS showed complete conversion to the desired product mass with minor by-products. The reaction mixture was diluted with 25 ml ethyl acetate and filtered. The filtrate was concentrated under vacuum to give 1.311 g crude solid tan product. The crude product was washed with diethyl ether, then triturated with acetonitrile and filtered to give Methyl-1-chloro-4-cyano-5H-pyrido[4,3-b]indole-7-carboxylate as a tan solid [0.855 g, 2.99 mmol, 80% yield]. The product had an HPLC Retention Time=3.658 min [4 min grad, 10% MeOH/water to 90% MeOH/water, 0.1% TFA, YMC COMBISCREEN® ODS-A, 4.6×50 mm, 220 nM]; LC/MS+1 286.1

reactant | methyl 4-cyano-1-oxo-2,5-dihydro-1H-pyrido[4,3-b]indole-7-carboxylate | 3.74 mmol, 1.000 g | C(#N)C1=CNC(C2=C1NC=1C=C(C=CC21)C(=O)OC)=O | C14H9N3O3
reactant | Phosphorus oxychloride | 18.71 mmol, 1.713 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | Dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | Methyl-1-chloro-4-cyano-5H-pyrido[4,3-b]indole-7-carboxylate | COC(=O)C=1C=CC=2C3=C(NC2C1)C(=CN=C3Cl)C#N | C14H8ClN3O2
